* C:\Users\Riley\Documents\tuftsrobotics_trinity2014\simulations\mic_amp.asc
XU1 N006 N002 N001 0 N003 LT1001
V1 N001 0 5
V2 N004 0 SINE(0 .025 500) AC 1
R1 N001 N004 2.2k
R2 N002 N005 10k
C1 N005 N004 4.7µF
R3 N001 N006 10k
R4 N006 0 10k
C2 N006 0 1µF
C3 N001 0 0.1µF
R5 N003 N002 999k
C4 N003 N002 12pF
R6 N003 0 100k
;ac oct 10 .01 1000000
.tran 0 .01 0
.lib LTC.lib
.backanno
.end
